US06369235B1
2-(Cyclopropyl)-4-methoxylbenzimidazole (1.00 g, 5.32 mmol) (5014) was reacted with 2,6-difluoro-a-bromo-toluene (1.30 g, 6.28 mmol, 130 M%). The crude product was purified by flash chromatography eluting with 2% methanol/CH2Cl2 and recrystallization from diethylether/hexane (3:1), yielding white crystals of 1-(2,6-Difluorobenzyl)-2-(cyclopropyl)-4-methoxylbenzimidazole (5016) (1.54 g, 4.90 mmol, 92% yield). M.p. 136-139° C. 1H-NMR (200 MHz, CD2Cl2) δ7.31 (m, 1H, H4′), 7.07 (dd, J=8.0, 7.8 Hz, 1H, H6), 6.94 (m, 3H, H3′,5′,5), 6.61 (dd, J=7.8, 1.0 Hz, H7), 5.46 (s, 2H, CH2PhF2), 3.95 (s, 3H, OCH3), 2.20-2.03 (m, 1H), 1.18-0.97 (m, 4H).

reactant | 2-(Cyclopropyl)-4-methoxylbenzimidazole | 5.32 mmol, 1.00 g | C1(CC1)C=1NC2=C(N1)C=CC=C2OC | C11H12N2O
reactant | 2,6-difluoro-a-bromo-toluene | 6.28 mmol, 130 M, 1.30 g | FC1=C(C(=CC=C1)F)CBr | C7H5BrF2
product | 1-(2,6-Difluorobenzyl)-2-(cyclopropyl)-4-methoxylbenzimidazole | 4.90 mmol, 1.54 g, 92% yield | FC1=C(CN2C(=NC3=C2C=CC=C3OC)C3CC3)C(=CC=C1)F | C18H16F2N2O
